US05621084
Tetrakis(triphenylphosphine)palladium (30.3 mg, 26.2 μmol) was added to a methylene chloride solution (3.7 ml) of p-toluenesulfinic acid (64.3 mg, 0.411 mmol) and allyl N-(p-methoxyphenyl)carbamate (77.6 mg, 0.374 mmol) prepared in Preparation 7. The reaction mixture was stirred for 40 minutes at room temperature. The reaction solution was subjected to a silica gel chromatography to obtain p-anisidine (36.3 mg) with a yield of 79%.

reactant | p-toluenesulfinic acid | 0.411 mmol, 64.3 mg | C1(=CC=C(C=C1)S(=O)O)C | C7H8O2S
reactant | allyl N-(p-methoxyphenyl)carbamate | 0.374 mmol, 77.6 mg | COC1=CC=C(C=C1)NC(OCC=C)=O | C11H13NO3
catalyst | Tetrakis(triphenylphosphine)palladium | 26.2 μmol, 30.3 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | methylene chloride | 3.7 ml | C(Cl)Cl | CH2Cl2
product | p-anisidine | 36.3 mg, yield of 79% | COC1=CC=C(C=C1)N | C7H9NO
